US04200641
A mixture of 17.3 parts of 1-(ethoxycarbonyl)-4-hydroxypiperidine, 24.7 parts of bromodiphenylmethane and 7 parts of potassium carbonate is stirred and heated in an oil-bath for 3 hours at 140° C. The reaction mixture is cooled, water is added and the product is extracted with methylbenzene. The extract is washed a few times with water, dried, filtered and evaporated. The oily residue is distilled, yielding ethyl 4-(diphenylmethoxy)-1-piperidinecarboxylate; bp. 150° C. at 0.4 mm. pressure.

reactant | 1-(ethoxycarbonyl)-4-hydroxypiperidine | C(C)OC(=O)N1CCC(CC1)O | C8H15NO3
reactant | bromodiphenylmethane | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | ethyl 4-(diphenylmethoxy)-1-piperidinecarboxylate | C1(=CC=CC=C1)C(OC1CCN(CC1)C(=O)OCC)C1=CC=CC=C1 | C21H25NO3
